US05521216
6.88 g of 5,7-dihydroxy-2-methylthiochromone (30.35 mmol), 12.56 g of potassium carbonate (91.05 mmol), 6.07 ml of isopropyl iodide (60.70 mmol) and 150 ml DMF were stirred at 60° C. for 30 minutes. After addition of water, the reaction solution was extracted twice with ethyl acetate, and the organic layer was washed with saturated NaCl water and was then dried over sodium sulfate anhydride. The solvent was distilled off under reduced pressure, and the crude product was purified by flash column chromatography (hexane : ethyl acetate=4 : 1), to give 6.71 g of 5-hydroxy-7-isopropoxy-2-methylthiochromone (83% yield).

reactant | 5,7-dihydroxy-2-methylthiochromone | 30.35 mmol, 6.88 g | OC1=C2C(C=C(OC2=CC(=C1)O)C)=S | C10H8O3S
reactant | potassium carbonate | 91.05 mmol, 12.56 g | C([O-])([O-])=O.[K+].[K+]
reactant | isopropyl iodide | 60.70 mmol, 6.07 ml | C(C)(C)I | C3H7I
reactant | DMF | 150 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 5-hydroxy-7-isopropoxy-2-methylthiochromone | 6.71 g, 83% yield | OC1=C2C(C=C(OC2=CC(=C1)OC(C)C)C)=S | C13H14O3S
